US05770595
A solution of 1-(11-dodecenyl)-3,7-dimethylxanthine, prepared above (4.70 g, 13.6 mmol), 4-methylmorpholine-N-oxide (4.79 g, 40.7 mmol) and potassium osmate dihydrate (52 mg, 0.14 mmol) in acetone/water 1:2 (75 ml) was stirred for 16 hours. Water (50 ml) and sodium sulfite (5 g) were subsequently added to the solution and the resulting reaction mixture stirred for 1 hour. The reaction mixture was extracted with dichloromethane (3×100 ml), dried using magnesium sulfate and the solvent evaporated, resulting in a pale, green solid. Recrystallization from hot ethyl acetate yielded 4.32 g of a white solid, 1-(11,12-dihydroxydodecyl)-3,7-dimethylxanthine (84% yield).

reactant | 1-(11-dodecenyl)-3,7-dimethylxanthine | C(CCCCCCCCCC=C)N1C(=O)N(C=2N=CN(C2C1=O)C)C | C19H30N4O2
reactant | 4-methylmorpholine-N-oxide | 40.7 mmol, 4.79 g | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | Water | 50 ml | O | H2O
reactant | sodium sulfite | 5 g | S(=O)([O-])[O-].[Na+].[Na+]
solvent | acetone water | 75 ml | CC(=O)C.O
product | 1-(11,12-dihydroxydodecyl)-3,7-dimethylxanthine | 84% yield | OC(CCCCCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)CO | C19H32N4O4
